US06800654B2
{[6-(1-Acetyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile
To a stirred solution of {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile (0.300 g, 0.814 mmol) in Ac2O (3 mL, 3.18 mmol) at rt was added a catalytic amount of CSA (0.019 g, 0.0814 mmol). The reaction was heated to 70° C. for 18 h, and by TLC the reaction was about one half complete. Another 19 mg of CSA added and kept at 70° C. for an additional 24 h. After this time, the reaction mixture was quenched with 1 N HCl (˜2 mL). The resulting solution was extracted with EtOAc (100 mL). The organic layer was washed with 1 N HCl (10 mL), sat. aq. NaHCO3 (10 mL), and brine (10 mL) and then dried (MgSO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (10 to 20% EtOAc:petroleum ether gradient) to afford the product (0.164 g, 49%) as a solid; 1H NMR (DMSO-d6) δ 0.73 (t, J=7.2 Hz, 3H), 1.03-1.23 (m, 4H), 1.47-1.61 (m, 2H), 1.92 (s, 3H), 3.24-3.42 (m, 2H), 5.34 (s, 2H), 7.27-7.43 (m, 3H), 7.52-7.70 (m, 3H), 7.94-8.08 (m, 3H), 8.33 (d, J=8.8 Hz, 1H); mass spectrum [(+) ESI], m/z 411 (M+H)+, 433 (M+Na)+.

reactant | {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.814 mmol, 0.300 g | C(CCCC)C1=C(NC2=CC=CC=C12)C=1C=C2C=CC(=CC2=CC1)OCC#N | C25H24N2O
reactant | Ac2O | 3.18 mmol, 3 mL | CC(=O)OC(=O)C | C4H6O3
reactant | CSA | 0.0814 mmol, 0.019 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | CSA | 19 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | {[6-(1-Acetyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | 0.164 g, 49% | C(C)(=O)N1C(=C(C2=CC=CC=C12)CCCCC)C=1C=C2C=CC(=CC2=CC1)OCC#N | C27H26N2O2
